US08202885B2
BB25. Methyl-[3-(2-methyl-furo[2,3-b]pyridin-5-yl)-propyl]-amine
Prepared from 2-methoxymethyl-furo[2,3-b]pyridine-5-carboxylic acid ethyl ester in analogy to the methods described for (3-furo[2,3-b]pyridin-5-yl-propyl)methyl-amine.

reactant | 2-methoxymethyl-furo[2,3-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C2C(=NC1)OC(=C2)COC | C12H13NO4
reactant | (3-furo[2,3-b]pyridin-5-yl-propyl)methyl-amine | O1C=CC=2C1=NC=C(C2)CCCNC | C11H14N2O
product | Methyl-[3-(2-methyl-furo[2,3-b]pyridin-5-yl)-propyl]-amine | CNCCCC=1C=C2C(=NC1)OC(=C2)C | C12H16N2O
